US05840732
Synthesis of 5-mercapto-2-methylimidazo[1,2-a]pyridine
In a nitrogen atmosphere, 17.33 g (70 mmol) of 5-chloro-2-methylimidazo[1,2-a]pyridine hydrobromide was added to 70 ml of a sodium hydrosulfide solution at room temperature, followed by stirring at 90° C. for 24 hours. After the reaction mixture was cooled, concentrated hydrochloric acid was added until the reaction mixture's pH became 3-4. The resulting precipitate was collected by filtration, washed with water and dried to yield 12.32 g (quant, yellow powder) of the desired product.

reactant | 5-chloro-2-methylimidazo[1,2-a]pyridine hydrobromide | 70 mmol, 17.33 g | Br.ClC1=CC=CC=2N1C=C(N2)C
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrosulfide | 70 ml | [SH-].[Na+]
product | 5-mercapto-2-methylimidazo[1,2-a]pyridine | SC1=CC=CC=2N1C=C(N2)C | C8H8N2S
